### PR TITLE
feat: introduce `URI` data type for HTTP

### PR DESCRIPTION
**Pull request by algebraic-dev**
This PR introduces the `URI` data type.

This contains the same code as #10478, divided into separate pieces to facilitate easier review. 

The pieces of this feature are:
- Core data structures: #12126
- Headers: #12127
- URI:  #12128
- Body: #12144
- H1: #12146
- Server: #12151
- Client:

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0a0323734b2d10c3f9355659f8e44b67bd36f644 --onto 57003e5c7962bd5db93fb51d4536969c3631c1db`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-24 02:14:09)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0a0323734b2d10c3f9355659f8e44b67bd36f644 --onto 4c1e4a77b4952098ea043f9b8c2d155c20b24523`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-25 00:36:31)

File: src/Std/Internal/Http/Data/URI/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,732 @@
...
+-/
+def withPath (uri : URI) (path : URI.Path) : URI :=
+  { uri with path }
+
+/--
+Returns a new URI with the query replaced.
+-/
+def withQuery (uri : URI) (query : URI.Query) : URI :=
+  { uri with query }
+
```
Comment (kim-em) [inline src/Std/Internal/Http/Data/URI/Basic.lean:824]: RFC 7230 Section 5.3.1 defines origin-form as:
```
origin-form = absolute-path [ "?" query ]
```

There's no fragment component—fragments are client-side only and should not be sent to servers in HTTP request targets. Should `originForm` exclude the fragment field, or is there a use case I'm missing?

File: src/Std/Internal/Http/Data/URI/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,732 @@
...
+instance : ToString Host where
+  toString
+    | .name n => n
+    | .ipv4 addr => toString addr
+    | .ipv6 addr => s!"[{toString addr}]"
+
+/--
+TCP port number.
+-/
```
Comment (kim-em) [inline src/Std/Internal/Http/Data/URI/Basic.lean:244]: The username and password are stored decoded (per `UserInfo` docstring), but this `ToString` instance doesn't percent-encode them before serialization. This can produce invalid/ambiguous URIs.

Test case:
```lean
-- Expected: "user%40example:pass%3Aword@host.com"
-- Actual: "user@example:pass:word@host.com" (ambiguous - multiple @ and :)
#eval toString ({
  userInfo := some ⟨"user@example", some "pass:word"⟩,
  host := .name ⟨"host.com", by decide⟩
} : URI.Authority)
```

Should this use `EncodedString.encode` for the userinfo components?

File: src/Std/Internal/Http/Data/URI/Parser.lean [hunk 3]
```diff
@@ -0,0 +1,399 @@
...
+    | fail s!"invalid IPv4 address: {ipv4Str}"
+
+  return ipv4Str
+
+-- host = IP-literal / IPv4address / reg-name
+private def parseHost : Parser URI.Host := do
+  if (← peekWhen? (· == '['.toUInt8)).isSome then
+    return .ipv6 (← parseIPv6)
+  else if (← peekWhen? isDigit).isSome then
+    return .ipv4 (← parseIPv4)
```
Comment (kim-em) [inline src/Std/Internal/Http/Data/URI/Parser.lean]: Domain names can start with digits (RFC 1123 relaxed RFC 952). A host like `1example.com` would trigger the IPv4 branch, fail validation in `Net.IPv4Addr.ofString`, and not fall back to reg-name parsing.

Should there be a fallback to reg-name if IPv4 parsing fails? Or is rejecting digit-leading domain names intentional?

File: src/Std/Internal/Http/Data/URI/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,732 @@
...
+  Query parameters as (key, optional value) pairs (will be encoded when building).
+  -/
+  query : Array (String × Option String) := #[]
+
+  /--
+  Fragment identifier (will be encoded when building).
+  -/
+  fragment : Option String := none
+deriving Inhabited
+
```
Comment (kim-em) [inline src/Std/Internal/Http/Data/URI/Basic.lean:654]: The docstring says "The domain name will be automatically percent-encoded" but the implementation just lowercases—no percent-encoding happens. (Domain names typically use punycode for internationalization rather than percent-encoding anyway.) Should the docstring be corrected?

Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/URI/Basic.lean:654]: Added validation to DomainName. It is now restricted to only allow characters valid in a DNS label, now percent-encoding is no longer needed and the value will remain valid.

File: src/Std/Internal/Http/Data/URI/Parser.lean (hunk 3 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/URI/Parser.lean]: Fixed.

File: src/Std/Internal/Http/Data/URI/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,907 @@
...
+  password : Option EncodedUserInfo
+deriving Inhabited, Repr
+
+namespace UserInfo
+
+/--
+Builds a `UserInfo` value from raw strings by applying userinfo percent-encoding.
+-/
+@[inline]
+def ofStrings (username : String) (password : Option String := none) : UserInfo :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/URI/Basic.lean]: Please use `where` syntax here or else use indentation as described in the style guide.

File: src/Std/Internal/Http/Data/URI/Encoding.lean [hunk 6]
```diff
@@ -0,0 +1,688 @@
...
+-/
+def isEncodedQueryChar (rule : UInt8 → Bool) (c : UInt8) : Bool :=
+  isEncodedChar rule c ∨ c = '+'.toUInt8
+
+/--
+Checks if all characters in a `ByteArray` are allowed in an encoded URI component. This is a fast check
+that only verifies the character set, not full encoding validity.
+-/
+@[inline]
+abbrev isAllowedEncodedChars (rule : UInt8 → Bool) (s : ByteArray) : Prop :=
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/URI/Encoding.lean]:
```suggestion
abbrev IsAllowedEncodedChars (rule : UInt8 → Bool) (s : ByteArray) : Prop :=
```
also elsewhere.

File: src/Std/Internal/Http/Data/URI/Encoding.lean [hunk 7]
```diff
@@ -0,0 +1,688 @@
...
+private theorem ByteArray.toList_toByteArray (ba : ByteArray) :
+    ba.data.toList.toByteArray = ba := by
+  cases ba with
+  | mk data =>
+    simp [List.toByteArray]
+    apply ByteArray.ext
+    simp [List.toByteArray_loop_eq, ByteArray.empty]
+    decide
+
+theorem ascii_is_valid_utf8 (ba : ByteArray) (s : ba.data.all isAsciiByte) : ByteArray.IsValidUTF8 ba := by
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/URI/Encoding.lean]: Should this be a private theorem? If not, please make sure it adheres to the naming convention (`isValidUTF8_of_isAsciiByte`).

File: src/Std/Internal/Http/Data/URI/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,907 @@
...
+Hierarchical path component of a URI. Each segment is stored as an `EncodedSegment` to maintain
+proper percent-encoding.
+
+Reference: https://www.rfc-editor.org/rfc/rfc3986.html#section-3.3
+-/
+structure Path where
+  /--
+  The path segments making up the hierarchical structure (each segment is percent-encoded).
+  -/
+  segments : Array (EncodedSegment)
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/URI/Basic.lean]:
```suggestion
  segments : Array EncodedSegment
```

File: tests/elab/async_http_encode.lean [hunk 9]
```diff
@@ -578,35 +578,14 @@ info: true
...
 -/
 #guard_msgs in
-#eval encodeStr ({ method := .get, version := .v11, uri := "/search?q=hello&lang=en" } : Request.Head)
-
--- URI with fragment
-/--
-info: "GET /page#section HTTP/1.1\x0d\n\x0d\n"
--/
-#guard_msgs in
-#eval encodeStr ({ method := .get, version := .v11, uri := "/page#section" } : Request.Head)
```
Comment (TwoFX) [inline tests/elab/async_http_encode.lean:588]: Why are you losing these tests?

Comment (algebraic-dev) [reply tests/elab/async_http_encode.lean:588]: I removed the `/page#section` test because fragments are not part of the request target, they are only available to the browser usually.

I also removed the` /api/v1/users/[id]:action` test since it’s not considered valid either. I removed them because when it was a String it could contain a lot of weird examples like those.

I’ll probably just add these test again and check for failure in the other file.

Comment (algebraic-dev) [reply tests/elab/async_http_encode.lean:588]: Added.

File: src/Std/Internal/Http/Data/URI/Parser.lean [hunk 10]
```diff
@@ -0,0 +1,428 @@
...
+-- authority = [ userinfo "@" ] host [ ":" port ]
+private def parseAuthority (config : URI.Config) : Parser URI.Authority := do
+  let userInfo ← tryOpt do
+    let ui ← parseUserInfo config
+    skipByte '@'.toUInt8
+    return ui
+
+  let host ← parseHost config
+
+  let port : URI.AuthorityPort ←
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/URI/Parser.lean]: Presumably this will break after you rebase to the new `do` elaborator. It should be `URI.Port`, but the old `do` elaborator actually ignores type annotations in this place...

File: src/Std/Internal/Http/Data/URI/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,923 @@
...
+-/
+def authority? : RequestTarget → Option URI.Authority
+  | .authorityForm a => some a
+  | .absoluteForm u _ => u.authority
+  | _ => none
+
+/--
+Extracts the fragment component from a request target, if available.
+-/
+def fragment? : RequestTarget → Option String
```
Comment (TwoFX) [inline src/Std/Internal/Http/Data/URI/Basic.lean]: This always returns `none`?

Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/URI/Basic.lean]: Yes, I will remove it.

File: src/Std/Internal/Http/Data/URI/Parser.lean (hunk 10 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/URI/Parser.lean]: Fixed.
